US05443754
2.75 g (10 mmol) of 2-octyloxy-5-bromopyridine are dissolved in 60 ml of absolute diethyl ether, and the solution is cooled to -75° C. under inert gas. 16 mmol of 1.6M butyllithium solution in hexane are added, and the mixture is additionally stirred at -75° C. for 15 minutes. 4.5 g of triisopropylborate in 50 ml of absolute diethyl ether are then added dropwise. The cooling device is then removed. After the batch has warmed to room temperature, 50 ml of 10% HCl are added, and the mixture is additionally stirred at room temperature for 30 minutes. The phases are separated, and the organic phase is washed twice with saturated NaCl solution. The solvent is distilled off in vacuo, and the residue is recrystallized from acetonitrile, giving 6-octyloxypyridine-3-boronic acid.

reactant | 2-octyloxy-5-bromopyridine | 10 mmol, 2.75 g | C(CCCCCCC)OC1=NC=C(C=C1)Br | C13H20BrNO
reactant | butyllithium | 16 mmol, 1.6M | C(CCC)[Li]
reactant | triisopropylborate | 4.5 g | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
solvent | diethyl ether | 60 ml | C(C)OCC | C4H10O
solvent | hexane | CCCCCC | C6H14
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 6-octyloxypyridine-3-boronic acid | C(CCCCCCC)OC1=CC=C(C=N1)B(O)O | C13H22BNO3
